Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O[C:1]([CH:2]1[CH2:26][CH2:25][N:5]([c:6]2[cH:24][cH:23][c:9]([NH:10][C:11]([NH:12][c:13]3[c:14]([O:15][CH3:16])[cH:17][cH:18][c:19]([CH3:20])[cH:21]3)=[O:22])[cH:8][cH:7]2)[CH2:4][CH2:3]1)=[O:27].[CH3:28][c:29]1[cH:30][cH:31][cH:32][c:33]([Cl:34])[c:35]1[NH2:36]>>[C:1]([CH:2]1[CH2:3][CH2:4][N:5]([c:6]2[cH:7][cH:8][c:9]([NH:10][C:11]([NH:12][c:13]3[c:14]([O:15][CH3:16])[cH:17][cH:18][c:19]([CH3:20])[cH:21]3)=[O:22])[cH:23][cH:24]2)[CH2:25][CH2:26]1)(=[O:27])[NH:36][c:35]1[c:29]([CH3:28])[cH:30][cH:31][cH:32][c:33]1[Cl:34],[OH:101][C:1]([CH:2]1[CH2:3][CH2:4][N:5]([c:6]2[cH:7][cH:8][c:9]([NH:10][C:11]([NH:12][c:13]3[c:14]([O:15][CH3:16])[cH:17][cH:18][c:19]([CH3:20])[cH:21]3)=[O:22])[cH:23][cH:24]2)[CH2:25][CH2:26]1)=[O:27].[CH3:28][c:29]1[cH:30][cH:31][cH:32][c:33]([Cl:34])[c:35]1[NH2:36].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([CH:2]1[CH2:3][CH2:4][N:5]([c:6]2[cH:7][cH:8][c:9]([NH:10][C:11]([NH:12][c:13]3[c:14]([O:15][CH3:16])[cH:17][cH:18][c:19]([CH3:20])[cH:21]3)=[O:22])[cH:23][cH:24]2)[CH2:25][CH2:26]1)(=[O:27])[NH:36][c:35]1[c:29]([CH3:28])[cH:30][cH:31][cH:32][c:33]1[Cl:34],DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (36, 1), ([1, 27], 27), (303, 36.1), ([36.1, 36], 36), (27, [27, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[CH2:1][C:2](=[O:3])[c:4]1[cH:5][cH:6][c:7]([F:8])[cH:9][cH:10]1.[CH3:11][CH:12]([CH3:13])[NH:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[CH2:1]([C:2](=[O:3])[c:4]1[cH:5][cH:6][c:7]([F:8])[cH:9][cH:10]1)[N:14]([CH:12]([CH3:11])[CH3:13])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,[Cl:101][CH2:1][C:2](=[O:3])[c:4]1[cH:5][cH:6][c:7]([F:8])[cH:9][cH:10]1.[CH3:11][CH:12]([CH3:13])[NH:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[CH2:1]([C:2](=[O:3])[c:4]1[cH:5][cH:6][c:7]([F:8])[cH:9][cH:10]1)[N:14]([CH:12]([CH3:11])[CH3:13])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,SN2,"[(14, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1]([c:2]1[cH:3][cH:4][n:5]2[cH:6][c:7](-[c:8]3[c:9]([CH3:10])[o:11][n:12][c:13]3-[c:14]3[cH:15][cH:16][cH:17][cH:18][cH:19]3)[n:20][c:21]2[cH:22]1)=[O:23].[NH2:24][CH:25]1[CH2:26][CH2:27][CH2:28]1>>[C:1]([c:2]1[cH:3][cH:4][n:5]2[cH:6][c:7](-[c:8]3[c:9]([CH3:10])[o:11][n:12][c:13]3-[c:14]3[cH:15][cH:16][cH:17][cH:18][cH:19]3)[n:20][c:21]2[cH:22]1)(=[O:23])[NH:24][CH:25]1[CH2:26][CH2:27][CH2:28]1,[OH:101][C:1]([c:2]1[cH:3][cH:4][n:5]2[cH:6][c:7](-[c:8]3[c:9]([CH3:10])[o:11][n:12][c:13]3-[c:14]3[cH:15][cH:16][cH:17][cH:18][cH:19]3)[n:20][c:21]2[cH:22]1)=[O:23].[NH2:24][CH:25]1[CH2:26][CH2:27][CH2:28]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([c:2]1[cH:3][cH:4][n:5]2[cH:6][c:7](-[c:8]3[c:9]([CH3:10])[o:11][n:12][c:13]3-[c:14]3[cH:15][cH:16][cH:17][cH:18][cH:19]3)[n:20][c:21]2[cH:22]1)(=[O:23])[NH:24][CH:25]1[CH2:26][CH2:27][CH2:28]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (24, 1), ([1, 23], 23), (303, 24.1), ([24.1, 24], 24), (23, [23, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=C(OCc1ccccc1)[N:1]1[CH2:2][C@@H:3]([C:4]([NH2:5])=[O:6])[N:7]([c:8]2[cH:9][cH:10][c:11]3[c:12]([cH:13]2)[O:14][CH2:15][CH2:16][n:17]2[cH:18][c:19](-[c:20]4[n:21][cH:22][n:23][n:24]4[CH2:25][C:26]([F:27])([F:28])[F:29])[n:30][c:31]2-3)[CH2:32][CH2:33]1>>[NH:1]1[CH2:2][C@@H:3]([C:4]([NH2:5])=[O:6])[N:7]([c:8]2[cH:9][cH:10][c:11]3[c:12]([cH:13]2)[O:14][CH2:15][CH2:16][n:17]2[cH:18][c:19](-[c:20]4[n:21][cH:22][n:23][n:24]4[CH2:25][C:26]([F:27])([F:28])[F:29])[n:30][c:31]2-3)[CH2:32][CH2:33]1,[O:201]=[C:101]([O:202][CH2:203][c:204]1[cH:205][cH:206][cH:207][cH:208][cH:209]1)[N:1]1[CH2:2][C@@H:3]([C:4]([NH2:5])=[O:6])[N:7]([c:8]2[cH:9][cH:10][c:11]3[c:12]([cH:13]2)[O:14][CH2:15][CH2:16][n:17]2[cH:18][c:19](-[c:20]4[n:21][cH:22][n:23][n:24]4[CH2:25][C:26]([F:27])([F:28])[F:29])[n:30][c:31]2-3)[CH2:32][CH2:33]1.[BrH:301]>>[NH:1]1[CH2:2][C@@H:3]([C:4]([NH2:5])=[O:6])[N:7]([c:8]2[cH:9][cH:10][c:11]3[c:12]([cH:13]2)[O:14][CH2:15][CH2:16][n:17]2[cH:18][c:19](-[c:20]4[n:21][cH:22][n:23][n:24]4[CH2:25][C:26]([F:27])([F:28])[F:29])[n:30][c:31]2-3)[CH2:32][CH2:33]1,Cbz_deprotection,"[(201, 301.1), ([301.1, 301], 301), (301, 203), ([203, 202], [202, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
